US07316999B2
Nα-tert-Butyloxycarbonyl-lysine was reacted with trimethylsilyldiazomethan in ethanol. The resulting methyl ester amine was transformed to the Nε-methyl derivative via benzaldehyde and sodium borohydride, formaldehyde and sodium boronhydride and hydrogenolysis (Andruszkiewicz, J. Pol. Chem. 1988, 62, 257) followed by N-alkylation with 2-(pinacolborono)benzyl bromide. The resulting Nα-tert-butyloxycarbonyl, Nε-methyl, Nε-(2-pinacolboronobenzyl) methyl lysinate was treated with methanol and trimethylsilyl chloride, 10:1, to give Nε-methyl, Nε-(2-boronobenzyl), methyl lysinate, dihydrochloride:

reactant | Nα-tert-Butyloxycarbonyl-lysine | C(C)(C)(C)OC(=O)N[C@@H](CCCCN)C(=O)O | C11H22N2O4
reactant | trimethylsilyldiazomethan | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | sodium | [Na] | Na
reactant | methyl lysinate | N[C@@H](CCCCN)C(=O)OC | C7H16N2O2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | methyl lysinate, dihydrochloride | Cl.Cl.N[C@@H](CCCCN)C(=O)OC | InChI=1S/C7H16N2O2.2ClH/c1-11-7(10)6(9)4-2-3-5-8;;/h6H,2-5,8-9H2,1H3;2*1H/t6-;;/m0../s1
